US06500863B1
N-[(1-ethyl-pyrrolidin-2-yl)methyl]-2,6-dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (2.0 g, 6.88 mmol), 2-aminomethyl- 1-ethyl-pyrolidine (882 mg, 6.88 mmol) and triethylamine(1.92 mL, 13.76 mmol) were reacted. The crude product (2.64 g) was carried on to the next step without purification. LC-MS (m/z) 382.0 (M+).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 6.88 mmol, 2.0 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | 2-aminomethyl- 1-ethyl-pyrolidine | 6.88 mmol, 882 mg | NCC1N(CCC1)CC | C7H16N2
reactant | triethylamine | 13.76 mmol, 1.92 mL | C(C)N(CC)CC | C6H15N
product | N-[(1-ethyl-pyrrolidin-2-yl)methyl]-2,6-dichloro-3-nitrobenzenesulfonamide | C(C)N1C(CCC1)CNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C13H17Cl2N3O4S
